US09303041B2
2-Methyl-10-(4-methyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene-7-carbonitrile
To a solution of 10-amino-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene-7-carbonitrile hydrochloride, prepared as described in the previous step, (0.6 g) in DMSO (6 mL) and toluene (6 mL), was added 1-methylpiperazine (4 mL). The mixture was heated in a 130° C. oil bath for 17 hours. The solution was concentrated, diluted with ethyl acetate (50 mL), washed with water (20 mL) and brine (20 mL), and then concentrated. The solid was dissolved in dichloromethane (10 mL) and treated with saturated sodium bicarbonate solution. The title compound was collected as a light yellow precipitate, washed with water and dichloromethane, dried, and used in the next step without additional purification. LC-MS: m/z 338 (M+1). 1H NMR (CD3OD, 400 MHz): δ (ppm) 7.19-7.15 (m, 2H), 6.74 (d, 1H), 6.37 (s, 1H), 3.51 (m, 4H), 2.53 (m, 4H), 2.34 (s, 3H), 2.32 (s, 3H).

reactant | 10-amino-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene-7-carbonitrile hydrochloride | Cl.NC1=NC2=C(NC=3SC(=CC13)C)C=CC(=C2)C#N
reactant | 1-methylpiperazine | 4 mL | CN1CCNCC1 | C5H12N2
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-10-(4-methyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene-7-carbonitrile | CC1=CC=2C(=NC3=C(NC2S1)C=CC(=C3)C#N)N3CCN(CC3)C | C18H19N5S
